US07504401B2
A 1.6 M solution of n-butyllithium in hexane (5.65 mL, 9.04 mmol) was dissolved in dry toluene (50 mL) under dry argon and cooled to −5° C. Then a 2M solution of n-butylmagnesium chloride (2.26 mL, 4.52 mmol) was added slowly with the temperature held below 0° C. over a period of 15 min. Stirring was continued for 45 min at −5° C., followed by drop wise addition of a solution of 1,3-dibromo-5-methoxy-benzene (3.00 g, 11.3 mmol) in toluene (30 mL) with the temperature held below 0° C. The mixture was stirred for 45 min at −5° C. A solution of iodine chloride (1.83 g, 11.3 mmol) in methylene chloride (20 mL) was added in the described manner and stirring continued for additional 20 min at −5° C. The mixture was warmed to room temperature. Water (50 mL) and toluene (50 mL) were added and the layers were separated. The organic layer was washed with a saturated aqueous solution of Na2S2O3 (2×30 mL), water and brine (30 mL). The organic layer was dried (MgSO4) and concentrated to give the crude product which was purified by flash chromatography on silica gel (100 g, AcOEt/heptane 1:9). 1-Bromo-3-iodo-5-methoxy-benzene (2.12 g, 60%) was obtained as a yellow oil, which crystallized quickly upon standing.

reactant | n-butyllithium | C(CCC)[Li]
reactant | hexane | 9.04 mmol, 5.65 mL | CCCCCC | C6H14
reactant | n-butylmagnesium chloride | 4.52 mmol, 2.26 mL | C(CCC)[Mg]Cl
reactant | 1,3-dibromo-5-methoxy-benzene | 11.3 mmol, 3.00 g | BrC1=CC(=CC(=C1)OC)Br | C7H6Br2O
reactant | iodine chloride | 11.3 mmol, 1.83 g | ICl | ClI
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
solvent | Water | 50 mL | O | H2O
product | 1-Bromo-3-iodo-5-methoxy-benzene | 2.12 g, 60% | BrC1=CC(=CC(=C1)OC)I | C7H6BrIO
